US06852713B2
Step 7D: 2-[4,5-Dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-pent-4-enoic acid benzyl ester
To a stirred mixture of [4,5-dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-acetic acid benzyl ester (3.00 g, 6.89 mmol) in anhydrous tetrahydrofuran (50 cm3) under an atmosphere of dry nitrogen cooled to −78° C. in an dry ice/acetone bath was added a 1 M solution of lithium bis(trimethylsilyl)amide (7.60 cm3, 7.60 mmol) in tetrahydrofuran dropwise over 5 minutes. The mixture was warmed to 0° C. in an ice bath for 30 minutes to dissolve all solids and cooled again to −78° C. in an dry ice/acetone bath. Neat allyl bromide (0.720 cm3, 8.27 mmol) was added at −78° C. over 5 minutes and the solution warmed to ambient temperature over 2 hours. Saturated ammonium chloride solution (30 cm3) was added and extracted with ethyl acetate (3×40 cm3). The combined ethyl acetate extracts were washed with brine solution (30 cm3), dried over sodium sulfate, vacuum filtered and the filtrate volatile fractions removed in vacuo to afford the title compound as a golden oil (3.25 g, 99.4%) with a positive ion ESI (M+H)+476.3.

reactant | [4,5-dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-acetic acid benzyl ester | 6.89 mmol, 3.00 g | C(C1=CC=CC=C1)OC(CC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)N1CCOCC1)=O | C21H25NO7S
reactant | lithium bis(trimethylsilyl)amide | 7.60 mmol, 7.60 cm3 | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | allyl bromide | 8.27 mmol, 0.720 cm3 | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 30 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 2-[4,5-Dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-pent-4-enoic acid benzyl ester | 3.25 g, 99.4% | C(C1=CC=CC=C1)OC(C(CC=C)C1=C(C=C(C(=C1)OC)OC)S(=O)(=O)N1CCOCC1)=O | C24H29NO7S
